US09079866B2
{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]oxy}acetic acid
To a solution of methyl 2-(4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-yloxy)acetate (50 mg, 0.14 mmol) in THF (2 mL) were added LiOH.H2O (63 mg, 1.5 mmol) and H2O (2 mL). The mixture was stirred at rt for 14 hours. The THF was removed under reduced pressure, and the residue diluted with 15 mL of water, washed with DCM (5 mL×2), and then acidified with 1 N HCl to pH=7. The precipitate was collected and washed with water and dried under high vacuum to give the title compound (40 mg, 95% yield). MS (ESI): mass calcd. for C18H14FN3O3, 339.10; m/z found, 340.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 13.02 (s, 1H), 8.36 (s, 1H), 8.01 (s, 1H), 7.88 (m, 1H), 7.55 (d, J=13.0, 1H), 7.48 (d, J=9.2, 1H), 7.40 (d, J=7.4, 1H), 7.33 (m, 1H), 7.08-7.00 (m, 2H), 6.69 (s, 2H), 4.76 (s, 2H).

reactant | methyl 2-(4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-yloxy)acetate | 0.14 mmol, 50 mg | NC=1N=CC(=NC1)C1=CC=C(C=C1F)C1=C(C=CC=C1)OCC(=O)OC | C19H16FN3O3
reactant | LiOH.H2O | 1.5 mmol, 63 mg | O[Li].O
reactant | H2O | 2 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]oxy}acetic acid | 40 mg, 95% yield | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)OCC(=O)O)F | C18H14FN3O3
